US09120761B2
(h) tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-ethylphenyl)piperidine-1-carboxylate (I44)
tert-Butyl 4-(3-ethyl-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (I43) (177 mg, 0.282 mmol) was dissolved in THF (10 mL), and a solution of lithium hydroxide monohydrate (59.0 mg, 1.41 mmol) in water (2 mL) was added. The mixture was stirred for 18 hours then concentrated. The residue was suspended in saturated sodium bicarbonate (20 mL), and extracted with ethyl acetate (3×20 mL). The combined ethyl acetate phases were washed with brine, dried (sodium sulphate) and evaporated. The residue was dissolved in THF (10 mL) and DMF (1 mL) at 30° C. and HOBt (50 mg, 0.37 mmol), EDCl (65 mg, 0.37 mmol) and DIPEA (0.246 mL, 1.41 mmol) were added. After ten minutes ammonium carbonate (135 mg, 1.41 mmol) was added and the mixture was stirred for 18 hours at 30° C. The mixture was concentrated, the residue diluted with saturated sodium bicarbonate (25 mL) and extracted with ethyl acetate (3×25 mL). The combined ethyl acetate phases were washed with brine (25 mL), dried (sodium sulfate) and evaporated. Chromatography (12 g silica cartridge, 0-100% ethyl acetate/petroleum benzine 40-60° C.) gave the title compound (I44) (122 mg, 71% over two steps) as a white solid; 1H NMR (400 MHz, CDCl3) δ 8.49 (s, 1H), 7.56 (d, J=8.1 Hz, 1H), 7.28-7.22 (m, overlaps with CHCl3), 7.22-7.15 (m, 1H), 7.13-7.05 (m, 3H), 5.38 (s, 1H), 5.15 (s, 1H), 4.25 (s, 2H), 3.64 (s, 2H), 3.11-2.99 (m, 4H), 2.80 (t, J=12.1 Hz, 2H), 2.69-2.60 (m, 3H), 1.84 (d, J=12.3 Hz, 2H), 1.69-1.60 (m, 2H), 1.49 (s, 9H), 1.23 (t, J=7.6 Hz, 3H). LCMS: rt 6.65 min; m/z 612.2 [M+H]+, 556.1 [M-tBu+2H]+; m/z 610.2 [M−H]−.

reactant | tert-Butyl 4-(3-ethyl-4-((4-(2-(2-methoxy-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | 0.282 mmol, 177 mg | C(C)C=1C=C(C=CC1NC1=NC=C(C(=N1)CCC1=C(C=CC=C1)CC(=O)OC)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C | C34H41F3N4O4
reactant | lithium hydroxide monohydrate | 1.41 mmol, 59.0 mg | O.[OH-].[Li+]
reactant | HOBt | 0.37 mmol, 50 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.37 mmol, 65 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 1.41 mmol, 0.246 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ammonium carbonate | 1.41 mmol, 135 mg | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-((4-(2-(2-amino-2-oxoethyl)phenethyl)-5-(trifluoromethyl)pyrimidin-2-yl)amino)-3-ethylphenyl)piperidine-1-carboxylate | NC(CC1=C(CCC2=NC(=NC=C2C(F)(F)F)NC2=C(C=C(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C)CC)C=CC=C1)=O | C33H40F3N5O3
